US08013156B2
1-[4-(Pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperidine-4-carboxylic acid (280 mg, 0.87 mmol), HATU (328 mg, 0.86 mmol), DMF (1.5 mL) and DIEA (0.5 mL, 3.87 mmol) were combined and vortexed until a homogeneous mixture was obtained. 3-Trifluoromethyl-phenylamine (0.109 mL, 0.87 mmol) was added and the resulting mixture stirred at room temperature overnight. The reaction mixture was diluted with EtOAc and washed with sat'd NaHCO3 (3×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The crude product was purified by column chromatography (4:1 hexanes:EtOAc, followed by 1:1 hexanes:EtOAc) to give 100 mg (25%) of 1-[4-(Pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperidine-4-carboxylic acid (3-trifluoromethyl-phenyl)-amide as a white solid after lyophilization from H2O—AcCN. 1H NMR (CD3OD) 8.54 (d, 2H), 8.02 (s, 1H), 7.74 (d, 1H), 7.51-7.46 (m, 3H), 7.36 (d, 1H), 5.57 (s, 2H), 4.32 (m, 2H), 3.00 (m, 2H), 2.64 (m, 1H), 1.96-1.90 (m, 4H) ppm. LC-MS (MH+)=464.

reactant | 1-[4-(Pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperidine-4-carboxylic acid | 0.87 mmol, 280 mg | N1=CC=C(C=C1)COC=1C(=NSN1)N1CCC(CC1)C(=O)O | C14H16N4O3S
reactant | HATU | 0.86 mmol, 328 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 3.87 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-Trifluoromethyl-phenylamine | 0.87 mmol, 0.109 mL | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-[4-(Pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperidine-4-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 100 mg, 25% | FC(C=1C=C(C=CC1)NC(=O)C1CCN(CC1)C1=NSN=C1OCC1=CC=NC=C1)(F)F | C21H20F3N5O2S
